US05268377
To a stirred solution of 2-ethylimidazole (100 g) and triethylamine (115 g) in chloroform (800 ml) at 0° C. is added a solution of dimethylsulfamoyl chloride (153 g) in chloroform (200 ml). The mixture is stirred overnight at room temperature. Water (1.5 liter) is added thereto and the organic layer is separated therefrom and concentrated. The residue is dissolved in ethyl acetate (1 liter) and washed with water. The solution is dried over sodium sulfate and concentrated. Distillation gives 1-dimethylsulfamoyl-2-ethylimidazole (182 g) as colorless liquid.

reactant | 2-ethylimidazole | 100 g | C(C)C=1NC=CN1 | C5H8N2
reactant | triethylamine | 115 g | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfamoyl chloride | 153 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | Water | 1.5 liter | O | H2O
solvent | chloroform | 800 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-dimethylsulfamoyl-2-ethylimidazole | 182 g | CN(S(=O)(=O)N1C(=NC=C1)CC)C | C7H13N3O2S
